US05866568
A solution of 2-(4-aminophenyl)-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.17 g) in acetone (3 ml) and water (3 ml) was acidified to pH 4 with glacial acetic acid. Sodium cyanotrihydridoborate (0.045 g) was added and the mixture was stirred at ambient temperature for 16 hours. The mixture was then poured into 2M hydrochloric acid (10 ml) and extracted with ethyl acetate (2×25 ml). The aqueous layer was basified to pH 10 with 2M sodium hydroxide and re-extracted with ethyl acetate (2×25 ml). All of the organic extracts were combined, washed with brine and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 35-50% ethyl acetate/hexane through a silica gel Mega Bond Elut column to give N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-[4-(isopropylamino)phenyl]pyridine-3-sulphonamide (0.11 g) as a gum; 1H NMR (d6 -DMSO): 0.6 (d, 6 H), 1.2 (d, 6 H), 1.6 (m, 1 H), 3.6 (m, 1 H), 3.8 (d, 2 H), 4.0 (s, 3 H), 5.8 (d, 1 H), 6.6 (d, 2 H), 7.35 (d, 2 H), 7.6 (m, 1 H), 8.2 (s, 1 H), 8.8 (m, 2 H); mass spectrum (+ve ESP): 514 (M+H)+.

reactant | 2-(4-aminophenyl)-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.17 g | NC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C22H25N5O5S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Sodium cyanotrihydridoborate | 0.045 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | water | 3 ml | O | H2O
product | N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-[4-(isopropylamino)phenyl]pyridine-3-sulphonamide | 0.11 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)NC(C)C)C1=NC=C(N=C1OC)C | C25H31N5O5S
